US07645760B2
a) (5-Chloro-2-[(E)-[(2R,5S)-4-(4-fluorobenzyl)-2,5-dimethylpiperazin-1-yl]-3-oxopropenyl]-phenyl)-carbamic acid tert-butyl ester
(E)-3-(2-tert-Butoxycarbonylamino-4-chlorophenyl)-acrylic acid (595 mg, 2.0 mmol) and (2S,5R)-1-(4-fluorobenzyl)-2,5-dimethylpiperazine (Mavunkel, Babu J. et al., WO 00/71535) (445 mg, 2.0 mmol) were dissolved in CH2Cl2, combined with EDCl.HCl (384 mg, 2.0 mmol) and stirred for 3 hours at room temperature. The reaction mixture was purified via chromatography (SiO2, EtOAc/hexanes 2/8) to yield the title compound as colorless foam (830 mg, 81%).

reactant | (E)-3-(2-tert-Butoxycarbonylamino-4-chlorophenyl)-acrylic acid | 2.0 mmol, 595 mg | C(C)(C)(C)OC(=O)NC1=C(C=CC(=C1)Cl)/C=C/C(=O)O | C14H16ClNO4
reactant | (2S,5R)-1-(4-fluorobenzyl)-2,5-dimethylpiperazine | 2.0 mmol, 445 mg | FC1=CC=C(CN2[C@H](CN[C@@H](C2)C)C)C=C1 | C13H19FN2
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 2.0 mmol, 384 mg | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (5-Chloro-2-[(E)-[(2R,5S)-4-(4-fluorobenzyl)-2,5-dimethylpiperazin-1-yl]-3-oxopropenyl]-phenyl)-carbamic acid tert-butyl ester | 830 mg, 81% | C(C)(C)(C)OC(NC1=C(C=CC(=C1)Cl)\C=C\C(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C27H33ClFN3O3
